US03998879
Reaction of equimolar amounts of 1-phenyl-2,4-pentanedione with p-toluenesulfonylisocyanate in benzene according to the procedure of Example 1 affords 1-PHENYL-3-(N-p-TOLUENESULFONYLCARBAMOYL)-2,4-PENTANEDIONE, m.p. 119.5°-120.5° C. (corr.).

reactant | 1-phenyl-2,4-pentanedione | C1(=CC=CC=C1)CC(CC(C)=O)=O | C11H12O2
reactant | p-toluenesulfonylisocyanate | C1(=CC=C(C=C1)S(=O)(=O)N=C=O)C | C8H7NO3S
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 1-PHENYL-3-(N-p-TOLUENESULFONYLCARBAMOYL)-2,4-PENTANEDIONE | C1(=CC=CC=C1)CC(C(C(C)=O)C(NS(=O)(=O)C1=CC=C(C=C1)C)=O)=O | C19H19NO5S
